US07544690B2
To a suspension of cis-4-tert-butoxycarbonylamino-cyclohexanecarboxylic acid (50.0 g, 206 mmol) in benzene were added triethylamine (26.9 g, 266 mmol) and phosphorazidic acid diphenyl ester (62.2 g, 226 mmol). The reaction mixture was stirred at 80° C. for 1 hr. Benzyl alcohol (31.4 g, 290 mmol) was added and the mixture was stirred at reflux for 24 hr. The reaction mixture was concentrated and the residue was dissolved in EtOAc and H2O. The organic layer was separated and the aqueous layer was extracted with EtOAc (twice). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (silica gel, 30% EtOAc in hexane) to give cis-(4-tert-butoxycarbonylamino-cyclohexyl)-carbamic acid benzyl ester (54.1 g, 76%) as a colorless oil.

reactant | cis-4-tert-butoxycarbonylamino-cyclohexanecarboxylic acid | 206 mmol, 50.0 g | C(C)(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | triethylamine | 266 mmol, 26.9 g | C(C)N(CC)CC | C6H15N
reactant | phosphorazidic acid diphenyl ester | 226 mmol, 62.2 g | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(=O)N=[N+]=[N-] | C12H10N3O3P
reactant | Benzyl alcohol | 290 mmol, 31.4 g | C(C1=CC=CC=C1)O | C7H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | cis-(4-tert-butoxycarbonylamino-cyclohexyl)-carbamic acid benzyl ester | 54.1 g, 76% | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@@H](CC1)NC(=O)OC(C)(C)C)=O | C19H28N2O4
